US06693123B2
A mixture of (4-iodo-2-phenylbenzoyl)methionine methyl ester, prepared as in Example 210D, (469 mg, 1.0 mmol), [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride, complexed to dichloromethane (1:1) (82 mg, 0.10 mmol), and ethynyltributyltin (315 mg, 1.0 mmol) in DMF (5 mL) was heated at 80° C. for 6 hours at which point thin layer chromatography indicated no starting iodide left. 3-Bromopyridine (0.114 mL, 1.2 mmol) and triethylamine (0.42 mL, 3.0 mmol) were added and the reaction mixture was heated at 100° C. for 14 hours. The reaction mixture was diluted with ether (50 mL) and ethyl acetate (50 mL), washed with water and brine, dried over anhydrous magnesium sulfate, and filtered. To the filtrate was added 3 drops of water, followed by 1,8-diazabicyclo[5.4.0]undec-7-ene (0.2 mL) with swirling. The resulting milky mixture was filtered through silica gel (15 g), rinsed with ethyl acetate, and concentrated in vacuo. The residue was then purified by column chromatography (50% ethyl acetate-hexane, then ethyl acetate) to give {4-[(pyrid-3-yl)ethynyl]-2-phenylbenzoyl}methionine methyl ester (109 mg, 24%). 1H NMR (300 MHz, CDCl3) δ 8.79 (s, 1H), 8.58 (dd, 1H), 7.82 (dt, 1H), 7.74 (d, 1H), 7.59 (dd, 1H), 7.57 (s, 1H), 7.45 (m, 5H), 7.31 (dd, 1H), 5.93 (br d, 1H), 4.69 (m, 1H), 3.68 (s, 3H), 2.08 (m, 2H), 2.02 (s, 3H), 1.93 (m, 1H), 1.76 (m, 1H). MS (CI+) m/e 445 (M+H)+.

reactant | (4-iodo-2-phenylbenzoyl)methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)I)C1=CC=CC=C1)=O)CCSC)=O | C19H20INO3S
reactant | dichloromethane | 0.10 mmol, 82 mg | ClCCl | CH2Cl2
reactant | ethynyltributyltin | 1.0 mmol, 315 mg | C(#C)[Sn](CCCC)(CCCC)CCCC
reactant | iodide | [I-]
reactant | 3-Bromopyridine | 1.2 mmol, 0.114 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | triethylamine | 3.0 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride | 1.0 mmol, 469 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | {4-[(pyrid-3-yl)ethynyl]-2-phenylbenzoyl}methionine methyl ester | 109 mg, 24% | COC([C@@H](NC(C1=C(C=C(C=C1)C#CC=1C=NC=CC1)C1=CC=CC=C1)=O)CCSC)=O | C26H24N2O3S
